US07855211B2
6-Bromo-1-cyclopentyl-2-methyl-1H-benzoimidazole
Heat a mixture of 4-bromo-N2-cyclopentyl-benzene-1,2-diamine (10.6 g), triethyl orthoacetate (9.5 ml) and acetic acid (6.3 mL) at 100° C. for 2.5 h. Dilute with DCM and pour onto an aqueous saturated solution of sodium bicarbonate. Dry over sodium sulfate and remove the solvent under vacuum. Purify by silica gel column chromatography, eluting with DCM/ethanol-10% NH3 (0-3%) to afford 10.67 g of the title compound. MS (ES+): m/z=280 (M+H)+.

reactant | 4-bromo-N2-cyclopentyl-benzene-1,2-diamine | 10.6 g | BrC=1C=C(C(=CC1)N)NC1CCCC1 | C11H15BrN2
reactant | triethyl orthoacetate | 9.5 ml | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | acetic acid | 6.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-Bromo-1-cyclopentyl-2-methyl-1H-benzoimidazole | 10.67 g | BrC=1C=CC2=C(N(C(=N2)C)C2CCCC2)C1 | C13H15BrN2
